US06214869B1
Bromine (0.363 L) was added dropwise over 2 hours to a solution of resorcinol (250 g) in dichloromethane (3.5 L). The solution was stirred at room temperature for 18 hours at which time approximately 1 L of the dichloromethane was removed by distillation. MeOH was added and the distillation continued in this manner until all of the dichloromethane was removed and the solution contained approximately 1.5 L of MeOH. To this was added a solution of NaOH (181.5 g) and Na2SO3 (573 g) in H2O (7.5 L). The resulting mixture was stirred at ambient temperature for 1 hour. The solution was then acidified to pH=2 with concentrated HCl (75 mL) and extracted with tert-butyl methyl ether (TBME) (2×1 L). The combined organic layers were treated with activated charcoal (20 g) and filtered through Celite; the Celite was washed with an additional 500 mL of TBME. The solvent was then removed in vacuo. The resulting crude 2-bromoresorcinol was dissolved in a minimum amount of ethyl acetate and filtered through silica gel eluting with a gradient from 20% to 40% ethyl acetate in hexanes yielding 2-bromoresorcinol (122 g). m.p. 86-88°.

reactant | Bromine | 0.363 L | BrBr | Br2
reactant | resorcinol | 250 g | C1(O)=CC(O)=CC=C1 | C6H6O2
solvent | dichloromethane | 3.5 L | ClCCl | CH2Cl2
solvent | dichloromethane | approximately 1 L | ClCCl | CH2Cl2
product | 2-bromoresorcinol | 122 g | BrC1=C(O)C=CC=C1O | C6H5BrO2
